US07439393B2
v) N-[3-({2-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]-N′-(3-nitrophenyl)urea
A solution of (5R)-3-{6-[2-{(3-aminophenyl)methoxy}ethoxy]hexyl}-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (1.00 g) in anhydrous dichloromethane (15 ml) was treated under nitrogen at 200 with 3-nitrophenyl isocyanate (0.43 g) and the mixture stirred for 4 h. Isopropanol (20 ml) was added and the mixture stirred for 17 h before the solvent was removed in vacuo to give a residue that was purified by Biotage. Elution with dichloromethane-EtOH-ammonia (325:8:1) followed by solvent evaporation in vacuo gave the title compound (1.13 g). LCMS RT=3.85 min, ES+ve 663 (MH)+.

reactant | (5R)-3-{6-[2-{(3-aminophenyl)methoxy}ethoxy]hexyl}-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 1.00 g | NC=1C=C(C=CC1)COCCOCCCCCCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C28H38N2O6
reactant | 3-nitrophenyl isocyanate | 0.43 g | [N+](=O)([O-])C=1C=C(C=CC1)N=C=O | C7H4N2O3
reactant | Isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-[3-({2-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]-N′-(3-nitrophenyl)urea | 1.13 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC=2C=C(C=CC2)NC(=O)NC2=CC(=CC=C2)[N+](=O)[O-])C | C35H42N4O9
